US07005432B2
5-(4-Chloro-3-difluoromethyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=335.3 (M+H+), was prepared from 2-(4-chloro-3-difluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(4-chloro-3-difluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(F)F | C13H16BClF2O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(4-Chloro-3-difluoromethyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.ClC1=C(C=C(C=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C)C(F)F | InChI=1S/C16H13ClF2N4.ClH/c1-10-20-4-5-23(10)9-13-6-12(8-21-22-13)11-2-3-15(17)14(7-11)16(18)19;/h2-8,16H,9H2,1H3;1H
